US04948819
4-Benzoyl-N,N-dimethyl-N-(2-(2-methyl-1-oxo-2-propenyloxy)ethyl)benzenemethanaminium chloride
Dimethylaminoethyl methacrylate (10.13 mls) was added to a stirred solution of 4-chloromethylbenzophenone (11.52g) in acetone (50 mls) at 48° C. and the mixture was stirred for fifteen hours at 48°±2° C. The stirred mixture was cooled in an ice bath for two hours prior to filtration, washing with acetone (X2) and drying under vacuo at room temperature. The crude title compound was obtained as a white crystalline solid (16.82g; m.p. 163°-166° C.) which was recrystallised from a mixture of acetone (30 mls) and isopropanol (30 mls).

reactant | Dimethylaminoethyl methacrylate | 10.13 mls | C(C(=C)C)(=O)OCCN(C)C | C8H15NO2
reactant | 4-chloromethylbenzophenone | 11.52g | ClCC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C14H11ClO
solvent | acetone | 50 mls | CC(=O)C | C3H6O
product | 4-Benzoyl-N,N-dimethyl-N-(2-(2-methyl-1-oxo-2-propenyloxy)ethyl)benzenemethanaminium chloride | [Cl-].C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)C[N+](CCOC(C(=C)C)=O)(C)C | InChI=1S/C22H26NO3.ClH/c1-17(2)22(25)26-15-14-23(3,4)16-18-10-12-20(13-11-18)21(24)19-8-6-5-7-9-19;/h5-13H,1,14-16H2,2-4H3;1H/q+1;/p-1
